US04478749
(A) (3S-cis)-[4-Methyl-2-oxo-3-[[(1,1-dimethylethoxy)carbonyl]amino]-1-azetidinyl]phosphonic acid, dimethyl ester
(3S-cis)-3-[[(1,1-Dimethylethoxy)carbonyl]amino]-4-methyl-2-azetidinone (918 mg) dissolved in dry tetrahydrofuran (25 ml) was cooled to -78° C. under an inert atmosphere and 1.56 M n-butyl lithium (3 ml) was added while stirring. After thirty minutes dimethyl phosphorochloridate (3.0 ml) was added and the mixture was stirred at -78° C. for 2 hours. Saturated sodium chloride solution (20 ml) was added and the mixture allowed to warm to room temperature and extracted three times with 30 ml ethyl acetate portions. The combined extracts were dried (Na2SO4) and solvent was removed in vacuo yielding an oil. Chromatography of the oil dissolved in 4 ml of ethyl acetate on a 34 g silica gel column eluting with ethyl acetate yielded 875 mg of the title compound.

reactant | (3S-cis)-3-[[(1,1-Dimethylethoxy)carbonyl]amino]-4-methyl-2-azetidinone | 918 mg | CC(C)(OC(=O)N[C@@H]1C(N[C@@H]1C)=O)C | C9H16N2O3
reactant | n-butyl lithium | 1.56 M, 3 ml | C(CCC)[Li]
reactant | dimethyl phosphorochloridate | 3.0 ml | P(OC)(OC)(=O)Cl | C2H6ClO3P
reactant | sodium chloride | 20 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | (3S-cis)-[4-Methyl-2-oxo-3-[[(1,1-dimethylethoxy)carbonyl]amino]-1-azetidinyl]phosphonic acid, dimethyl ester | 875 mg | C[C@@H]1[C@@H](C(N1P(OC)(OC)=O)=O)NC(=O)OC(C)(C)C | C11H21N2O6P
